US06914160B1
2-Methylamino-nicotinic acid
Methylamine hydrochloride (8.6 g, 128 mmol) was added portionwise to a mixture of 2-chloronicotinic acid (10.0 g, 64 mmol), potassium carbonate (35.4 g, 256 mmol) and copper (I) bromide (920 mg, 6.4 mmol) in N,N-dimethylformamide (100 ml), and the reaction heated at 100° C. for 18 hours, then cooled. The resulting precipitate was removed by filtration, washing through with additional methanol and the filtrate evaporated under reduced pressure. The residue was redissolved in 2N sodium hydroxide solution (200 ml), washed with diethyl ether (4×80 ml), then the pH of the aqueous solution adjusted to 6, using concentrated hydrochloric acid. This aqueous solution was evaporated under reduced pressure, the residue dissolved in methanol, poly(4-vinylpyridine), 2% cross-linked (5 g) was added, and the mixture stirred at room temperature for 18 hours. The resin was removed by filtration, and the procedure then repeated. The solution was evaporated under reduced pressure, and the solid recrystallised from ethanol, to afford the title compound, 5.2 g.

reactant | Methylamine hydrochloride | 128 mmol, 8.6 g | Cl.CN
reactant | 2-chloronicotinic acid | 64 mmol, 10.0 g | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
reactant | potassium carbonate | 256 mmol, 35.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
catalyst | copper (I) bromide | 6.4 mmol, 920 mg | [Cu]Br
product | 2-Methylamino-nicotinic acid | CNC1=C(C(=O)O)C=CC=N1 | C7H8N2O2
